US05409956
Preparation of 2-(indan-2-yl)ethylamine:
8.77 g (0.23 mol) of lithium aluminum hydride was suspended in 400 ml of tetrahydrofuran, to which was added a suspension of 100 ml tetrahydrofuran containing 27.8 g (0.160 mol) of (indan-2-yl)acetamide under ice-cooling. The mixture was stirred for 30 minutes at room temperature, then refluxed for 5 hours. Under ice-cooling, 9 ml of water, 9 ml of 15% sodium hydroxide and 26 ml water were added thereto dropwise in this order for decomposing the excessive reagent and separating the solid matter. The filtrate was condensed to obtain 26.1 g of an oily material. Yield: 100%

reactant | lithium aluminum hydride | 0.23 mol, 8.77 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (indan-2-yl)acetamide | C1C(CC2=CC=CC=C12)CC(=O)N | C11H13NO
reactant | water | 9 ml | O | H2O
reactant | sodium hydroxide | 9 ml | [OH-].[Na+]
reactant | water | 26 ml | O | H2O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.160 mol, 100 ml, 27.8 g | O1CCCC1 | C4H8O
product | 2-(indan-2-yl)ethylamine | 26.1 g, Yield: 100% | C1C(CC2=CC=CC=C12)CCN | C11H15N
